US06271225B1
In the same manner as in Starting Material Synthesis Example 51 and using 2-amino-4-methylbenzo[b]thiophene-3-carbonitrile (3.8 g), 2-chloronitrobenzene(3.5 g) and dimethyl sulfoxide (45 ml), 4-methyl-2-(2-nitroanilino)benzo[b]thiophene-3-carbonitrile (5.8 g) was obtained.

reactant | 2-amino-4-methylbenzo[b]thiophene-3-carbonitrile | 3.8 g | NC1=C(C2=C(S1)C=CC=C2C)C#N | C10H8N2S
reactant | 2-chloronitrobenzene | 3.5 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | dimethyl sulfoxide | 45 ml | CS(=O)C | C2H6OS
product | 4-methyl-2-(2-nitroanilino)benzo[b]thiophene-3-carbonitrile | 5.8 g | CC1=CC=CC=2SC(=C(C21)C#N)NC2=C(C=CC=C2)[N+](=O)[O-] | C16H11N3O2S
